US07566699B2
4-Hydroxy-3-{2-[4-(3-hydroxypropoxy)phenyl]ethyl}benzofuran
To a solution of 2′-carboxymethoxy-6′-hydroxy-4-(3-hydroxypropoxy)dihydrochalcone (2.8 g) in acetic acid (39.4 mL) were added sodium acetate (17.8 g) and acetic anhydride (17.9 mL), and the mixture was stirred at 115° C. overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethylether. The extract was washed with water twice, a saturated aqueous sodium hydrogen carbonate solution, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (10 mL). To the solution was added 2 mol/L aqueous sodium hydroxide solution (26 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was acidified by addition of 2 mol/L hydrochloric acid, and the resulting mixture was extracted with diethyl ether. The extract was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1-1/1) to give the title compound (0.45 g).

reactant | 2′-carboxymethoxy-6′-hydroxy-4-(3-hydroxypropoxy)dihydrochalcone | 2.8 g | C(=O)(O)COC1=C(C(C=CC2CC=C(C=C2)OCCCO)=O)C(=CC=C1)O | C20H22O7
reactant | sodium acetate | 17.8 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 17.9 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | acetic acid | 39.4 mL | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-3-{2-[4-(3-hydroxypropoxy)phenyl]ethyl}benzofuran | 0.45 g | OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)OCCCO | C19H20O4
